US06479536B1
N-[4-[[(E)-3-(4-Isopropylphenyl)-2-propenyl]oxy]-2,3,6-trimethylphenyl]formamide
By using N-(4-hydroxy-2,3,6-trimethylphenyl)formamide and 1-[(E)-3-bromo-1-propenyl]-4-isopropylbenzene, the title compound was synthesized according to Reference Example 17a. Yield: 59%. Melting point: 165-167° C. (Ethyl acetate-hexane).

reactant | N-(4-hydroxy-2,3,6-trimethylphenyl)formamide | OC1=C(C(=C(C(=C1)C)NC=O)C)C | C10H13NO2
reactant | 1-[(E)-3-bromo-1-propenyl]-4-isopropylbenzene | BrC/C=C/C1=CC=C(C=C1)C(C)C | C12H15Br
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-[4-[[(E)-3-(4-Isopropylphenyl)-2-propenyl]oxy]-2,3,6-trimethylphenyl]formamide | Yield: 59% | C(C)(C)C1=CC=C(C=C1)/C=C/COC1=C(C(=C(C(=C1)C)NC=O)C)C | C22H27NO2
